US04472586
3-(o-Hydroxymethylphenylthio)-4-hydroxybenzoic acid
A mixture of 25 g o-mercaptobenzyl alcohol (0.18 mole), 39.6 g 3-iodo-4-hydroxy benzoic acid (0.15 mole), 11.43 g copper powder (0.18 mole), 70 ml 40% aqueous potassium hydroxide solution (0.5 mole) and 300 ml water was placed under nitrogen atmosphere and stirred under reflux for 18 hours. After cooling the mixture was diluted with 400 ml of water and extracted twice with 100 ml of ethyl acetate to remove neutral products. The aqueous fraction was filtered and the filtrate acidified with conc. HCl to afford the title compound as an oil which solidified and was filtered. There was obtained 32.8 g solid.

reactant | o-mercaptobenzyl alcohol | 0.18 mole, 25 g | SC1=C(CO)C=CC=C1 | C7H8OS
reactant | 3-iodo-4-hydroxy benzoic acid | 0.15 mole, 39.6 g | IC=1C=C(C(=O)O)C=CC1O | C7H5IO3
reactant | potassium hydroxide | 0.5 mole, 70 ml | [OH-].[K+]
solvent | water | 400 ml | O | H2O
catalyst | copper | 0.18 mole, 11.43 g | [Cu] | Cu
solvent | water | 300 ml | O | H2O
product | 3-(o-Hydroxymethylphenylthio)-4-hydroxybenzoic acid | OCC1=C(C=CC=C1)SC=1C=C(C(=O)O)C=CC1O | C14H12O4S
